US06313122B1
A. N1-(3-Nitrobenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine
Using the procedure described in Example 93, Part A, 3-nitrobenzoyl chloride (2.3 mmol) and N1-(4-methoxy-benzoyl)-1,2-benzenediamine (2.1 mmol) yielded 708 mg (86%) of the title compound.

reactant | 3-nitrobenzoyl chloride | 2.3 mmol | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
reactant | N1-(4-methoxy-benzoyl)-1,2-benzenediamine | 2.1 mmol | COC1=CC=C(C(=O)NC=2C(=CC=CC2)N)C=C1 | C14H14N2O2
product | N1-(3-Nitrobenzoyl)-N2-(4-methoxybenzoyl)-1,2-benzenediamine | 708 mg, 86% | [N+](=O)([O-])C=1C=C(C(=O)NC=2C(=CC=CC2)NC(C2=CC=C(C=C2)OC)=O)C=CC1 | C21H17N3O5
